US07402595B2
2-(4-tert-butoxycarbonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3,6-dicarboxylic acid dimethyl ester
A mixture of 6-bromo-2-(4-tert-butoxycarbonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (2.54 g), palladium(II) acetate (52 mg), 1,1′-bis(diphenylphosphino)ferrocene (125 mg), triethylamine (1.6 ml), DMF (13 ml) and methanol (13 ml) was stirred at 60° C. for 72 hrs. under 1 atm carbon monoxide. The reaction mixture was concentrated and water was added to the residue. The mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-hexane:ethyl acetate=2:1) and recrystallized (ethyl acetate-hexane) to give the title compound (1.82 g).

reactant | 6-bromo-2-(4-tert-butoxycarbonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 2.54 g | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)C(=O)OC(C)(C)C | C29H26BrNO5
reactant | triethylamine | 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | DMF | 13 ml | CN(C)C=O | C3H7NO
reactant | carbon monoxide | [C]=O | CO
reactant | methanol | 13 ml | CO | CH4O
catalyst | palladium(II) acetate | 52 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 125 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-(4-tert-butoxycarbonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3,6-dicarboxylic acid dimethyl ester | 1.82 g | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C(=O)OC)=O)CC1=CC=C(C=C1)C(=O)OC(C)(C)C | C31H29NO7
